US06992087B2
Preparation of cis 5-ethyl-4,5,6,7-tetrahydro-1-benzofuran-4-amine
Following the procedure for the preparation of cis-5-propyl-4,5,6,7-tetrahydro-1-benzothiophen-4-amine but substituting (4E) and (4Z)-5-ethyl-6,7-dihydro-1-benzofuran-4(5H)-one oxime and making non-critical variations provided the title compound as a oil: 1H NMR (CDCl3) δ 1.02, 1.30-1.73, 2.50-2.67, 3.84, 6.38, 7.27; HRMS (FAB) calcd for C10H15NO+H 166.1232, found 166.1231. Anal. Calcd for C10H15NO: C, 72.69; H, 9.15; N, 8.48. Found: C, 72.33; H, 9.14; N, 8.08.

reactant | cis-5-propyl-4,5,6,7-tetrahydro-1-benzothiophen-4-amine | C(CC)[C@H]1CCC2=C(C=CS2)[C@H]1N | C11H17NS
reactant | (4Z)-5-ethyl-6,7-dihydro-1-benzofuran-4(5H)-one oxime | C(C)C/1CCC2=C(C=CO2)\C1=N/O | C10H13NO2
product | cis 5-ethyl-4,5,6,7-tetrahydro-1-benzofuran-4-amine | C(C)[C@H]1CCC2=C(C=CO2)[C@H]1N | C10H15NO
